* Z:\home\kume\LTspiceXVII\work\step_down_convertor_NJM2360M\NJM2360M.asc
XU1 N001 N002 N003 0 N004 Vin N001 N001 MC34063
C1 N003 0 470p
C2 Vin 0 100µ
C3 Vout 0 470µ
R1 N001 Vin 0.3
L1 N002 Vout 220µ
D1 0 N002 1N5817
R2 Vout N004 3.1k
R3 N004 0 1.2k
V1 Vin 0 PWL(0 0 100u 0 110u 5)
.model D D
.lib C:\users\kume\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 50m 0 1u
.lib MC34063.lib
.backanno
.end
