*==========================================================
* MC34063
* ON Semiconductor
* DC-DC controller
*
* This model was developed for ON Semiconductor by:
* AEI Systems, LLC
* 5777 W. Century Blvd. Suite 876
* Los Angeles, California 90045
* Copyright 2002, all rights reserved.
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of ON Semiconductor. 
*
* For more information regarding modeling services,
* model libraries and simulation products, please
* call AEi Systems at (310) 863-8034, or contact 
* AEi by email: info@aeng.com. http://www.AENG.com
*
* Revision: 1.0
*==========================================================
**********
.SUBCKT MC34063 swc    swe    ct    90    2    vdd    isns    drc
*               SW-col SW-em  Ct    gnd    cinv vdd    isns    drive col
*DC-DC controller

* PSpice translation by Christophe Basso, christophe.basso@onsemi.com

EB5 5 90 Value = { IF ( v(9,90)>2.5 & v(8,90)>2.5, 0, 5 ) }
Q3 ct 22 vdd QN2907
V10 isns 22 DC=.3215
EB6 7 90 Value = { IF ( v(4,90)>2.5 & v(10,90)>2.5, 0, 5 ) }
R3 5 10 100
R9 13 swe 100
C2 10 90 100p IC=5
R4 2 90 10MEG
C10 2 90 50p
R5 7 8 100
C3 8 90 100p IC=0
XTOF1 srst 90 ct 90 SWhyste params: VT=1.25 VH=.8 
R1 srst vdd 10k
Q2 drc 14 13 _Q3_mod 
EB4 6 90 Value = { IF ( v(2,90)  > (v(vref,90) + v(voff,90)), 0, v(vdd,90) ) }
GB2 vdd ct Value = { IF ( V(srst,90) > 3, 35U, -220U ) }
EB3 9 90 Value = { IF ( v(diff,90) < 1, v(vdd,90), IF ( (v(6,90) > 3), 0, v(vdd,90) ) ) }
EB7 16 90 Value = { IF ( V(vdd,90)-1.5 > 1.25, 1.25, IF ( V(vdd,90)-1.25 < 0, 0, V(vdd,90)-1.25 ) ) }
V7 16 vref
R6 vref 90 400
R7 vref vdd 90k
Q1 swc 13 swe _Q4_mod 
R8 diff 90 10k
D1 14 15 DN4148
D2 swe 14 DN4148
V3 drc 15 DC=700m
GB8 swe 14 Value = { IF ( v(5,90) > 2.5, 10m, -10m ) }
V4 voff 90 DC=2m
C5 srst diff 10p
EB1 4 90 Value = { IF ( (v(diff,90) > -1), v(vdd,90), 0 ) }
R10 vdd isns 10k
** discrete models **
.MODEL QN2907 PNP BF=200 BR=6 CJC=19PF CJE=23PF IKF=100E-3
+ IS=1.1E-12 ISE=1.3E-11 MJC=.2 MJE=1.25 NE=1.9 NF=1.21 RC=.6
+ TF=5E-10 TR=34E-9 VAF=50 VJC=.5 VJE=.30 XTB=1.5
.MODEL DN4148 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL _Q4_mod NPN BF=50 RC=.125 RE=.125 TF=10n
.MODEL _Q3_mod NPN BF=50
.ENDS
**********
* PSpice hysteresis switch made by Chris Basso
.subckt SWhyste NodeMinus NodePlus Plus Minus PARAMS: RON=1 ROFF=1MEG VT=5 VH=2
S5 NodePlus NodeMinus 8 0 smoothSW
EBcrtl 8 0 Value = { IF ( V(plus)-V(minus) > V(ref), 1, 0 ) }
EBref ref1 0 Value = { IF ( V(8) > 0.5, {VT-VH}, {VT+VH} ) }
Rdel ref1 ref 100
Cdel ref 0 100p  IC={VT+VH}
Rconv1 8 0 10Meg
Rconv2 plus 0 10Meg
Rconv3 minus 0 10Meg
.model smoothSW VSWITCH (RON={RON} ROFF={ROFF} VON=1 VOFF=0)
.ends SWhyste
***** Example models *****
.MODEL DN5819 D BV=5.33E+01 CJO=1.44E-10 EG=0.69
+ IBV=6.00E-04 IS=1.65E-05 M=.671 N=1.41 RS=4.47E-02
+ TT=7.20E-11 VJ=1.45 XTI=2
*****
.SUBCKT MC34063A 1 2 3 4 5 6 7 8
*BY KEHINDE OMOLAYO 2-20-03
*TERMINAL ID
*SWITCH COLLECTOR=1 SWITCH EMITTER=2 TIMING CAPACITOR=3 GND=4
*COMPARATOR INVERTING INPUT=5 VCC=6 IPK SENSE=7 DRIVER COLLECTOR=8

* Translation by Chris Basso

E1 10 0 5 4 1
R1 4 5 10MEG
V1 20 0 PULSE 0 2
E2 11 0 3 4 1
EB1 13 0 Value = { 1M/(ABS((27.475-195M*V(12))+(36.002+244M*V(12))*V(9)-
+(302.302+651M*V(12))*V(9)^2)+1F) }
E3 12 0 6 4 1
E4 9 0 6 7 1
R2 6 7 10MEG
EB2 14 0 Value = { 1M*((-10.765-151M*V(12))+(45.344+864M*V(12))*V(9)-
+(35.99+1.378*V(12))*V(9)^2+(8.341+839M*V(12))*V(9)^3) }
EB4 15 0 Value = { IF ( V(9)>0.32, V(14), V(13) ) }
C1 19 0 10P
EB5 16 0 Value = { IF (  V(20)<1, 2, IF ( V(24)>1, 2, IF ( V(19)>1, 0, 2 ) ) ) }
R3 16 17 150
C2 17 0 10P
EB6 18 0 Value = { IF ( V(20)<1, 0, IF ( V(24)>1, 0, IF ( V(11)<(1.083-1.239*V(29)), 2, 
+IF ( V(17)>1, 0, 2 ) ) ) ) }
R4 18 19 150
D1 4 3 DMC34063
D2 3 6 DMC34063
C3 11 31 1N
GB7 4 36 Value = { IF ( V(17)>1, -(224.4U+2.359U*V(12))*0.77, V(15)*0.77 ) }
C5 23 0 10P
EB9 21 0 Value = { IF (  V(20)<1, 2, IF ( V(17)>1, 2, IF ( V(26)>1, 0, 2 ) ) ) }
R5 27 26 150
C6 26 0 10P
EB10 27 0 Value = { IF ( V(20)<1, 0, IF ( V(17)>1, 0, IF ( V(10)<1.25, 2, IF ( V(23)>1, 0, 2 ) ) ) ) }
R6 21 23 150
EB12 33 0 Value = { IF ( V(11)>(1.148+184.6M*V(29)), 2, 0 ) }
R13 33 24 10K
C8 24 0 10P
Q1 8 30 25 QSWITCH
Q2 1 25 2 QSWITCH
R15 25 2 100
D5 2 30 DMC34063
G1 2 30 26 23 5M
R16 2 4 10MEG
R23 31 28 1M
V6 28 0 
V7 36 3 
EB13 29 0 Value = { I(V6)/(I(V7)+866.8M*I(V6)) }
***
.MODEL DMC34063 D (CJO=2P N=0.05)
.MODEL QSWITCH NPN BF=75 CJC=2P IS=3E-9 RB=1 RC=0.45 RE=0
+ VJC=.75 VJE=.75 VJS=.75
***
.ENDS
*********
